US07622494B2
To a solution of 2-bromoaniline (2.0 g, 12 mmol) in N,N-dimethylformamide (15 mL) was added potassium carbonate (2.4 g, 18 mmol) and 3-bromocyclohexene (2.7 mL, 23 mmol). The mixture was heated at 75° C. for 16 hours. The reaction was allowed to cool before being diluted with ethyl acetate (50 mL) and toluene (15 mL). The solution was washed with brine, dried over magnesium sulfate, and concentrated. The residue was dried under high vacuum to yield 2.13 g (73%) of N-(2-bromophenyl)-N-cyclohex-2-en-1-ylamine. 1H NMR (DMSO-d6): δ 7.40 (d, 1H), 7.16 (t, 1H), 6.79 (d, 1H), 6.53 (t, 1H), 5.83-5.88 (m, 1H), 5.66-5.71 (m, 1H); 4.43 (d, 1H), 4.06 (m, 1H), 1.99 (m, 2H), 1.82 (m, 1H), 1.60 (m, 3H). MS m/z 252, 254 (M+1).

reactant | 2-bromoaniline | 12 mmol, 2.0 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | potassium carbonate | 18 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromocyclohexene | 23 mmol, 2.7 mL | BrC1C=CCCC1 | C6H9Br
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-bromophenyl)-N-cyclohex-2-en-1-ylamine | 2.13 g, 73% | BrC1=C(C=CC=C1)NC1C=CCCC1 | C12H14BrN
